US07947678B2
(±)-6′-Amino-3′,4′-dihydro-1′H-spiro[imidazolidine-4,2′-naphthalene]-2,5-dione
A stirred mixture of (±)-6′-carboxy-3′,4′-dihydro-1′H-spiro[imidazolidine-4,2′-naphthalene]-2,5-dione (1.50 g, 5.76 mmol), and sodium azide (749 mg, 11.53 mmol) in conc. H2SO4 (30 mL) was heated to 50° C. for 2 h, then allowed to cool to ambient temperature. The mixture was adjusted to pH 8 by addition of 6 N aqueous NaOH and concentrated in vacuo to precipitate a solid. The precipitate was collected by filtration and washed extensively with H2O. Drying in vacuo afforded the title compound as a light brown solid. MS: m/z=232 (M+1).

reactant | (±)-6′-carboxy-3′,4′-dihydro-1′H-spiro[imidazolidine-4,2′-naphthalene]-2,5-dione | 5.76 mmol, 1.50 g | C(=O)(O)C=1C=C2CCC3(CC2=CC1)NC(NC3=O)=O | C13H12N2O4
reactant | sodium azide | 11.53 mmol, 749 mg | [N-]=[N+]=[N-].[Na+]
reactant | NaOH | 6 N | [OH-].[Na+]
solvent | H2SO4 | 30 mL | OS(=O)(=O)O | H2O4S
product | (±)-6′-Amino-3′,4′-dihydro-1′H-spiro[imidazolidine-4,2′-naphthalene]-2,5-dione | NC=1C=C2CCC3(CC2=CC1)NC(NC3=O)=O | C12H13N3O2
